US08303944B2
PCC (8.16 g, 59.8 mmol) was admixed with 9 g SiO2 and ground (mortar & pestle) and suspended in Dichloromethane (360 mL). To the suspension was added in one portion Example J1, 1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)propan-1-ol (9 g, 29.9 mmol) dissolved in 5 mL of the same solvent. The reaction mixture was stirred for 2 hours an filtered through celite (rinse with (CH2Cl2). After being concentrated the residue was charged (CH2Cl2) to a 40 M Biotage silica gel cartridge. Gradient elution 15-70% B over 750 mL (A=Hexanes; B=ethyl acetate) gave Example J2, 1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)propan-1-one 7.7 g (86%). 1H NMR (500 MHz, CDCl3) δ 7.84 (d, J=8.7 Hz, 2H), 7.59 (d, J=8.5 Hz, 2H), 4.65 (t, J=4.9 Hz, 1H), 4.09-4.06 (m, 2H), 3.74 (dt, J=11.0, 2.4 Hz, 2H), 3.06 (t, J=7.3 Hz, 2H), 2.07-2.01 (m, 3H), 1.35-1.31 (m, 1H). LCMS: RT=1.9 minutes (condition 1); C13H15BrO3 Calcd.: 299. found: 299 (M+H)+.

reactant | PCC | 59.8 mmol, 8.16 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | 1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)propan-1-ol | 29.9 mmol, 9 g | BrC1=CC=C(C=C1)C(CCC1OCCCO1)O | C13H17BrO3
solvent | Dichloromethane | 360 mL | ClCCl | CH2Cl2
product | 1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)propan-1-one | 7.7 g, 86% | BrC1=CC=C(C=C1)C(CCC1OCCCO1)=O | C13H15BrO3
